US05734081
[R-(R*,R*)]2,2'-Dithiobis[N-(2-hydroxyl-1-phenylethyl) -benzamide (General method)
A slurry of (R)-2-amino-2-phenylethanol (1.0 g, 7.4 mmol) in 50 mL dichloromethane was allowed to stir with N-methyl-N-(trimethylsilyl)acetamide (3.4 mL, 21.1 mmol) until a homogenous solution occured. The solution was cooled to 0° C. to 5° C. and a solution of 2,2'-dithiobis[benzoyl chloride] (1.0 g, 2.9 mmol) in 20 mL dichloromethane was added. The solution was stirred for 2 hours and 1 mL of 50% aqueous acetic was added causing the crude product to precipitate from solution. This solid was collected by filtration, washed with 1N HCl, water, and recrystallized from dimethylformamide/water to afford 1.2 g of the title compound, mp 235°-236° C.

reactant | (R)-2-amino-2-phenylethanol | 7.4 mmol, 1.0 g | N[C@@H](CO)C1=CC=CC=C1 | C8H11NO
reactant | N-methyl-N-(trimethylsilyl)acetamide | 21.1 mmol, 3.4 mL | CN(C(C)=O)[Si](C)(C)C | C6H15NOSi
reactant | acetic | 1 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(2-hydroxyl-1-phenylethyl) -benzamide | 1.2 g | OCC(C1=CC=CC=C1)NC(C1=CC=CC=C1)=O | C15H15NO2
